US06603005B2
15.6 cm3 of a 0.5N solution of aqueous ammonia in dioxane, 0.26 g of 1-hydroxybenzotriazole hydrate, 0.75 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride and 0.55 cm3 of triethylamine were added to a mixture of 0.75 g of 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-4-carboxylic acid in the form of the sodium salt, in 20 cm3 of dichloromethane. The suspension obtained was stirred for 17 hours at a temperature in the region of 20° C. The reaction mixture was diluted with 25 cm3 of water and stirred, and the phases were then separated by settling. The aqueous phase was extracted with twice 25 cm3 of dichloromethane and the organic extracts were combined, washed with 25 cm3 of brine, dried over magnesium sulfate and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue obtained was purified by chromatography under a pressure of 50 kPa of argon, on a column of silica gel (particle size 20-45μ; diameter 3 cm; height 21 cm), eluting with a mixture of dichloromethane/methanol (90/10 by volume). The fractions containing the product were combined and then concentrated to dryness under the above conditions. 0.22 g of 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-4-carboxamide was obtained in the form of a white solid melting at 160° C.

reactant | ammonia | N | H3N
reactant | 1-hydroxybenzotriazole hydrate | 0.26 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.75 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-4-carboxylic acid | 0.75 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCCC1=CC=CC=C1)C(=O)O)OC | C28H33ClN2O3
reactant | sodium | [Na] | Na
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | water | 25 cm3 | O | H2O
solvent | triethylamine | 0.55 cm3 | C(C)N(CC)CC | C6H15N
product | 4-[3-(3-chloro-6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-4-carboxamide | 0.22 g | ClC=1C=NC2=CC=C(C=C2C1CCCC1(CCN(CC1)CCCC1=CC=CC=C1)C(=O)N)OC | C28H34ClN3O2
